US04133818
To a solution of 0.290 g. (0.00124 mole) of racemic trans-2-methylsulfonyloxy-4-cyclopentene-1-acetate in 10 ml. of tetrahydrofuran and 4 ml. of water at 0° C. was added dropwise, 1.00 ml. (0.0020 mole) of 2 N sodium hydroxide solution. The two-phased solution was vigorously stirred at 0° C. for 1 hr. and at room temperature for 16 hrs. to form racemic sodium cis-2-hydroxy-4-cyclopentene-1-acetate in admixture with racemic cis-2-hydroxy-4-cyclopentene-1-acetic acid lactone.

reactant | racemic trans-2-methylsulfonyloxy-4-cyclopentene-1-acetate | 0.00124 mole | CS(=O)(=O)O[C@H]1[C@@H](C=CC1)CC(=O)[O-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 0.0020 mole, 2 N | [OH-].[Na+]
solvent | water | O | H2O
product | racemic sodium cis-2-hydroxy-4-cyclopentene-1-acetate | O[C@@H]1[C@@H](C=CC1)CC(=O)[O-].[Na+] | InChI=1S/C7H10O3.Na/c8-6-3-1-2-5(6)4-7(9)10;/h1-2,5-6,8H,3-4H2,(H,9,10);/q;+1/p-1/t5-,6-;/m0./s1
